US05068449
To 19.1 g (0.1 mol) of 2-chloro-4,5-difluoroacetophenone, 280.4 g (0.4 mol) of a 12% sodium hypochlorite aqueous solution was added, and the mixture was reacted under reflux for 4 hours. After cooling, concentrated hydrochloric acid was dropwise added thereto until the pH became 1. The formed white crystals were dissolved in methylene chloride and separated from the aqueous phase. The separated aqueous phase was extracted twice with methylene chloride, and the extracts were added to the oil phase. Then, the solvent was distilled off to obtain 16.4 g (yield: 85.1%) of 2-chloro-4,5-difluorobenzoic acid as white crystal.

reactant | 2-chloro-4,5-difluoroacetophenone | 0.1 mol, 19.1 g | CC(=O)C1=CC(=C(C=C1Cl)F)F | C8H5ClF2O
reactant | sodium hypochlorite | Cl[O-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-chloro-4,5-difluorobenzoic acid | 16.4 g, yield: 85.1% | ClC1=C(C(=O)O)C=C(C(=C1)F)F | C7H3ClF2O2
